US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenoxy)phenyl]butyrate (5.9 g) and potassium hydroxide (4.5 g) in ethanol (80 ml) and water (40 ml) was treated in a similar manner to that of Example 14-(7). The resultant residue was washed with n-hexane and dried to give 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]butyric acid (4.15 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenoxy)phenyl]butyrate | 5.9 g | C(#N)C(C(=O)OCC)(CC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)Cl)OC | C20H20ClNO4
reactant | potassium hydroxide | 4.5 g | [OH-].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]butyric acid | 4.15 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C(C(=O)O)CC | C17H17ClO4
